US06613942B1
3-Chloro-4-hydroxybenzoic Acid {6-[2-(1,2,3,4-Tetrahydro-isoquinolin-2-yl)ethoxy]-5-methoxybiphenyl-3-ylmethylene}hydrazide
This compound was prepared analogously to the compound described in the previous example starting from resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (resin—[building block 1]) (2 g, ˜2 mmoles), 4-(2-bromoethoxy)-3-methoxy-5-phenylbenzaldehyde ([building block 2]) (0.93 g, 1.5 equivs.), and 1,2,3,4-tetrahydroisoquinoline ([building block 3]) (2.5 g, 10 equivs.). After cleavage with 50% trifluoroacetic acid, the residue was dissolved in 15 ml of a mixture of 25% aq. ammonia, methanol and dichloromethane (1:9:90) and purified by column chromatography on silica gel (25 g) eluting with a mixture of methanol and dichloromethane (1:12). This afforded 0.31 g of the title compound.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-(2-bromoethoxy)-3-methoxy-5-phenylbenzaldehyde | 0.93 g | BrCCOC1=C(C=C(C=O)C=C1C1=CC=CC=C1)OC | C16H15BrO3
reactant | 1,2,3,4-tetrahydroisoquinoline | 2.5 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | ammonia | N | H3N
solvent | methanol | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-Chloro-4-hydroxybenzoic Acid {6-[2-(1,2,3,4-Tetrahydro-isoquinolin-2-yl)ethoxy]-5-methoxybiphenyl-3-ylmethylene}hydrazide | C1N(CCC2=CC=CC=C12)CCOC1=C(C=C(C=C1C1=CC=CC=C1)C=NNC(C1=CC(=C(C=C1)O)Cl)=O)OC | C32H30ClN3O4
